US06780996B2
A mixture of sodium (118 mg, 5.11 mmol) and 2-methoxyethanol (5 mL) is heated at 120-130° C. for 3 hours. 4-[(2,4-Dichloro-5-methoxyphenyl)amino]-7-fluoro-6-methoxy-3-quinolinecarbonitrile (500 mg, 1.28 mmol) is added and the reaction mixture is heated at 120-125° C. for 1 hour. The temperature of the reaction mixture is increased to 140-150° C. and this temperature is maintained for 2.5 hours. The reaction mixture is cooled to room temperature and diluted with ice cold aqueous sodium bicarbonate. The solid is collected by filtration washing with water and hexane. Purification by flash column chromatography, eluting with 2% methanol in dichloromethane provides 550 mg of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-[2-methoxyethoxy]-3-quinolinecarbonitrile, mp 210-212° C.

reactant | sodium | 5.11 mmol, 118 mg | [Na] | Na
reactant | 4-[(2,4-Dichloro-5-methoxyphenyl)amino]-7-fluoro-6-methoxy-3-quinolinecarbonitrile | 1.28 mmol, 500 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)F)C#N | C18H12Cl2FN3O2
reactant | 2-methoxyethanol | 5 mL | COCCO | C3H8O2
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-[2-methoxyethoxy]-3-quinolinecarbonitrile | 550 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)OCCOC)C#N | C21H19Cl2N3O4
